US03963715
A mixture of 9 g (0.05 mole) of tetracyanopyrazine, 19.4 g (0.05 mole) of N,N-bis[2-(benzoyloxy)ethyl]aniline, and 100 ml of dimethylsulfoxide was heated for 18 hours at 100°C, the solution was cooled, diluted with 1 liter of ethyl acetate, and extracted with 5 liters of water. The ethyl acetate solution was dried over sodium sulfate and concentrated. The tarry residue was purified by chromatography on neutral silicic acid with hexane/benzene/ethyl acetate/ acetonitrile elution to give 12.6 g of a red fraction. Some unreacted N,N-bis[2-(benzoyloxy)ethyl]aniline was removed by hexane extraction. The remaining 10.7 g of red solid was treated with 100 ml of THF to leave 4.84 g of fairly pure product. Recrystallization from toluene gave 1.53 g of purple 6-[p-bis[2-benzoyloxy)ethyl]amino]phenyl-2,3,5-pyrazinetricarbonitrile, mp 189.6°-190.4°C. Another 4.56 g of this product was isolated from the mother liquors.

reactant | tetracyanopyrazine | 0.05 mole, 9 g | C(#N)C1=C(N=C(C(=N1)C#N)C#N)C#N | C8N6
reactant | N,N-bis[2-(benzoyloxy)ethyl]aniline | 0.05 mole, 19.4 g | C(C1=CC=CC=C1)(=O)OCCN(C1=CC=CC=C1)CCOC(C1=CC=CC=C1)=O | C24H23NO4
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | phenyl-2,3,5-pyrazinetricarbonitrile | C1(=CC=CC=C1)C1=C(N=C(C(=N1)C#N)C#N)C#N | C13H5N5
